US08614010B2
150 grams (892 mmol) of dibenzofuran and 1 L of acetic acid were loaded into a flask. The air in the flask was replaced with nitrogen, and then the contents were dissolved under heat. 188 grams (1.18 mol) of bromine were dropped to the solution while the flask was sometimes cooled with water. After that, the mixture was stirred for 20 hours under air cooling. The precipitated crystal was separated by filtration, and was then sequentially washed with acetic acid and water. The washed crystal was dried under reduced pressure. The resultant crystal was purified by distillation under reduced pressure, and was then repeatedly recrystallized with methanol several times. Thus, 66.8 g of 2-bromodibenzofuran were obtained (in 31% yield). The resultant was identified as Intermediate 1-3 by FD-MS analysis.

reactant | dibenzofuran | 892 mmol, 150 grams | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | acetic acid | 1 L | C(C)(=O)O | C2H4O2
reactant | bromine | 1.18 mol, 188 grams | BrBr | Br2
solvent | water | O | H2O
product | 2-bromodibenzofuran | 66.8 g, 31% yield | BrC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7BrO
